US06498165B1
2-[(S)-1-Phenylethylamino]-4-chloropyrimidine
To a stirred solution of 2,4-dichloropyrimidine (500 mg, 3.38 mmol, 1 eq) in THF (15 mL) was added (S)-1-phenylethylamine. After 48 h the precipitate was filtered off and washed with THF. The THF was removed under reduced pressure and the material was purified by silica gel chromatography (eluted with 4:1 hexanes/acetone) to give 167 mg of the desired product. [Note: 2-[(S)-1-phenylethylamino]-4-chloropyrimidine is the faster but minor regioisomer. The major, slower product is 2-chloro-4-[(S)-1-phenylethylamino]pyrimidine.]

reactant | 2,4-dichloropyrimidine | 3.38 mmol, 500 mg, 1 eq | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | (S)-1-phenylethylamine | C1(=CC=CC=C1)[C@H](C)N | C8H11N
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 2-[(S)-1-Phenylethylamino]-4-chloropyrimidine | 167 mg | C1(=CC=CC=C1)[C@H](C)NC1=NC=CC(=N1)Cl | C12H12ClN3
